US05864039
To a solution of 4-(tert-butoxycarbonylaminomethyl)piperidine (9.70 g) in toluene (160 ml) were added 3-ethylenedioxy-3-(4-methoxyphenyl)propyl bromide (13.0 g) and potassium carbonate (18.8 g), and the resulting mixture was stirred at 80° C. for 16.5 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:methanol=20:1) to give 14.7 g of 1-(3-ethylenedioxy-3-(4-methoxyphenyl)propyl)-4-(tert-butoxycarbonylaminomethyl)piperidine.

reactant | 4-(tert-butoxycarbonylaminomethyl)piperidine | 9.70 g | C(C)(C)(C)OC(=O)NCC1CCNCC1 | C11H22N2O2
reactant | 3-ethylenedioxy-3-(4-methoxyphenyl)propyl bromide | 13.0 g | C1OC(C(CBr)OC1)C1=CC=C(C=C1)OC | C12H15BrO3
reactant | potassium carbonate | 18.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-ethylenedioxy-3-(4-methoxyphenyl)propyl)-4-(tert-butoxycarbonylaminomethyl)piperidine | 14.7 g | C1OC(C(CN2CCC(CC2)CNC(=O)OC(C)(C)C)OC1)C1=CC=C(C=C1)OC | C23H36N2O5
